US07129234B2
2-(3,4-dichlorophenoxy)-3-quinolinecarbaldehyde
The title compound was prepared according to preparation 65 starting from 3,4-dichlorophenol and 2-chloro-3-quinoline carboxaldehyde (Aldrich Chemical Co.); δH (CDCl3, 400 MHz) 7.19 (1H, m), 7.50 (3H, m), 7.74 (2H, m), 7.91 (1H, dd), 8.75 (1H, s), 10.59 (1H, s); MS rn/z318, 320 (MH+).

reactant | 3,4-dichlorophenol | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
reactant | 2-chloro-3-quinoline carboxaldehyde | ClC1=NC2=CC=CC=C2C=C1C=O | C10H6ClNO
product | 2-(3,4-dichlorophenoxy)-3-quinolinecarbaldehyde | ClC=1C=C(OC2=NC3=CC=CC=C3C=C2C=O)C=CC1Cl | C16H9Cl2NO2
